US06107329
(2S)-Amino-N-methyl-3-phenyl-propionamide hydrochloride
[((1S)-1-Methylcarbamoyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester (2.35 g, 8.45 mmol) was dissolved in 4 M HCl-dioxane (20 ml) at 25° C. for 2 hours. The mixture was concentrated and the residue triturated with ether, and dried. Yield 1.70 g, 94%.

reactant | ((1S)-1-Methylcarbamoyl-2-phenyl-ethyl)-carbamic acid tert-butyl ester | 8.45 mmol, 2.35 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)C(NC)=O)=O | C15H22N2O3
reactant | HCl dioxane | 4 M, 20 ml | Cl.O1CCOCC1
product | (2S)-Amino-N-methyl-3-phenyl-propionamide hydrochloride | Cl.N[C@H](C(=O)NC)CC1=CC=CC=C1 | InChI=1S/C10H14N2O.ClH/c1-12-10(13)9(11)7-8-5-3-2-4-6-8;/h2-6,9H,7,11H2,1H3,(H,12,13);1H/t9-;/m0./s1
